US09034866B2
Synthesis of (R)-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-5,6-dihydro-4H-4,6-methanobenzo[6,7]cyclohepta[1,2-d]thiazole-2-carboxamide
Similar to as described in General Procedure G, 9-bromo-5,6-dihydro-4H-4,6-methanobenzo[6,7]cyclohepta[1,2-d]thiazole-2-carboxamide was reacted with (3R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one to give the titled compound as an off-white solid (14.4 mg, 59%).

reactant | 9-bromo-5,6-dihydro-4H-4,6-methanobenzo[6,7]cyclohepta[1,2-d]thiazole-2-carboxamide | BrC1=CC2=C(C3CC(C4=C2N=C(S4)C(=O)N)C3)C=C1 | C14H11BrN2OS
reactant | (3R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
product | (R)-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-5,6-dihydro-4H-4,6-methanobenzo[6,7]cyclohepta[1,2-d]thiazole-2-carboxamide | 14.4 mg, 59% | O[C@@]1(C(N(CC1)C)=O)C#CC1=CC2=C(C3CC(C4=C2N=C(S4)C(=O)N)C3)C=C1 | C21H19N3O3S
